US09079888B2
Step (iii): Preparation of tert-Butyl 4-[4-(2-chloro acetylamino)-3-fluoro phenoxy]piperidine-1-carboxylate
tert-Butyl 4-(4-amino-3-fluoro phenoxy)piperidine-1-carboxylate (7.54 g, 0.024 moles) was dissolved in dichloromethane (100 mL) and added triethylamine (3.6 g, 0.036 moles) at room temperature. To the resulting mass, a solution of chloro acetyl chloride (2.9 g, 0.026 moles) in dichloromethane (15 mL) was added drop wise at room temperature. After completion of the reaction, the organic mass was washed with water, dried over sodium sulfate, and concentrated under reduced pressure to obtain the crude residue, which was further purified by flash chromatography using (ethyl acetate:hexane, 1:5) to afford the title compound 5.94 g (Yield: 64%).

reactant | tert-Butyl 4-(4-amino-3-fluoro phenoxy)piperidine-1-carboxylate | 0.024 moles, 7.54 g | NC1=C(C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C16H23FN2O3
reactant | triethylamine | 0.036 moles, 3.6 g | C(C)N(CC)CC | C6H15N
reactant | chloro acetyl chloride | 0.026 moles, 2.9 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-[4-(2-chloro acetylamino)-3-fluoro phenoxy]piperidine-1-carboxylate | 5.94 g, Yield: 64% | ClCC(=O)NC1=C(C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C18H24ClFN2O4
